US05783114
4-(4(octyloxycarbonylcyanomethylene)-4H-pyridin-1-yl)benzoic acid
A mixture of 4-(4-oxo-4H-pyridin-1-yl)benzoic acid (814 mg, 3.5 mmol), octylcyanoacetate (3.44 g, 17.5 mmol) and acetic anhydride (45 ml) was heated at 130° C. for 3 hours. More octylcyanoacetate (3.44 g, 17.5 mmol) was added and the mixture heated for 3 hours more. The mixture was then filtered hot, and the filtrate was diluted with acetic acid (15 ml) and water (15 ml). Upon standing overnight in the refrigerator the product crystallized out and was isolated by suction filtration as a yellow solid (1.16 g, 85%).

reactant | 4-(4-oxo-4H-pyridin-1-yl)benzoic acid | 3.5 mmol, 814 mg | O=C1C=CN(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO3
reactant | octylcyanoacetate | 17.5 mmol, 3.44 g | C(CCCCCCC)OC(CC#N)=O | C11H19NO2
reactant | acetic anhydride | 45 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | octylcyanoacetate | 17.5 mmol, 3.44 g | C(CCCCCCC)OC(CC#N)=O | C11H19NO2
product | 4-(4(octyloxycarbonylcyanomethylene)-4H-pyridin-1-yl)benzoic acid | 1.16 g, 85% | C(CCCCCCC)OC(=O)C(=C1C=CN(C=C1)C1=CC=C(C(=O)O)C=C1)C#N | C23H26N2O4
